US08791129B2
[2-Amino-6-[5-fluoro-2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone (“A2”)
10.405 g of (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone are dissolved in 450 ml of ethanol. 5 g of 5-fluoro-2-hydroxymethylphenylboronic acid, 10.4 g of potassium carbonate, 1 g of [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride and 450 μl of water are added to this solution, and the mixture is heated at 100° C. under argon for 1 h. The hot mixture is filtered off through Celite, and the filter cake is rinsed with 500 ml of hot ethanol. The filtrate is evaporated to dryness in vacuo, and the reddish residue obtained is triturated with 50 ml of acetonitrile, during which a beige solid precipitates out. This is filtered, washed with 20 ml of acetonitrile and dried at 40° C. in a drying cabinet for 16 h

reactant | (2-amino-6-iodoquinazolin-4-yl)-(1,3-dihydroisoindol-2-yl)methanone | 10.405 g | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)I | C17H13IN4O
reactant | 5-fluoro-2-hydroxymethylphenylboronic acid | 5 g | FC=1C=CC(=C(C1)B(O)O)CO | C7H8BFO3
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 450 μl | O | H2O
solvent | ethanol | 450 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-[5-fluoro-2-(hydroxymethyl)phenyl]quinazolin-4-yl]isoindolin-2-ylmethanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CO | C24H19FN4O2
